US07132547B2
tert-Butyl 5-(2,3-dihydro-1-methyl-1H-indol-5-yl)-5-oxopentyl[2-(2-methoxyphenyl)ethyl]carbamate
Potassium carbonate (166 mg) and methyl iodide (170 mg) were added to a solution of tert-butyl 5-(2,3-dihydro-1H-indol-5-yl)-5-oxopentyl[2-(2-methoxyphenyl)ethyl]carbamate (362 mg) obtained in Reference Example 50 in dimethylformamide (2 ml), and the mixture was stirred at 60 to 70° C. for 5 hours. The solvent was evaporated under reduced pressure, water was added to the resulting residue, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (eluting solvent; hexane:ethyl acetate=1:1) to give the title compound as a pale yellow oil (125 mg).

reactant | Potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 170 mg | CI | CH3I
reactant | tert-butyl 5-(2,3-dihydro-1H-indol-5-yl)-5-oxopentyl[2-(2-methoxyphenyl)ethyl]carbamate | 362 mg | N1CCC2=CC(=CC=C12)C(CCCCN(C(OC(C)(C)C)=O)CCC1=C(C=CC=C1)OC)=O | C27H36N2O4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 5-(2,3-dihydro-1-methyl-1H-indol-5-yl)-5-oxopentyl[2-(2-methoxyphenyl)ethyl]carbamate | 125 mg | CN1CCC2=CC(=CC=C12)C(CCCCN(C(OC(C)(C)C)=O)CCC1=C(C=CC=C1)OC)=O | C28H38N2O4
